US09126998B2
rac-tert-Butyl [2-amino-3-(4-fluorophenoxy)propyl]carbamate
1.97 g of rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(4-fluorophenoxy)propyl]-carbamate (4.75 mmol, 1 equivalent) were initially charged in 5 ml of 40% strength aqueous methylamine solution, and the mixture was reacted in a microwave at 100° C. for 2 h. The reaction mixture was concentrated and the residue was then chromatographed on silica gel (Biotage Isolera; mobile phase: dichloromethane/methanol gradient). This gave 900 mg (67% of theory) of the title compound.

reactant | rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(4-fluorophenoxy)propyl]-carbamate | 4.75 mmol, 1.97 g, 1 equivalent | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)COC1=CC=C(C=C1)F | C22H23FN2O5
reactant | methylamine | CN | CH5N
product | rac-tert-Butyl [2-amino-3-(4-fluorophenoxy)propyl]carbamate | NC(CNC(OC(C)(C)C)=O)COC1=CC=C(C=C1)F | C14H21FN2O3
